US06258775B1
(a) (3-Iodophenyl)-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)methanone oxime
A mixture of 3-iodophenyl-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)methanone (6 g, 13.9 mmol), hydroxylamine hydrochloride (4.8 g, 69.5 mmol) and 4 A molecular sieves in pyridine (17 ml) is refluxed for 8 h. The reaction medium is extracted with ethyl acetate and washed with water. After drying, the organic phase is concentrated on a rotary evaporator under vacuum at 40° C. The two isomers (cis and trans) are separated by flash chromatography on a column of silica.

reactant | 3-iodophenyl-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)methanone | 13.9 mmol, 6 g | IC=1C=C(C=CC1)C(=O)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C22H25IO
reactant | hydroxylamine hydrochloride | 69.5 mmol, 4.8 g | Cl.NO
solvent | pyridine | 17 ml | N1=CC=CC=C1 | C5H5N
product | (3-Iodophenyl)-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)methanone oxime | IC=1C=C(C=CC1)C(=NO)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C22H26INO
